US09145413B2
a. cis-2,6-Dimethyl-piperidine-1-carboxylic acid N-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 96a)
Pyridine (2.40 mL, 29.7 mmol) was added dropwise to an ice cold suspension of triphosgene (4.42 g, 14.9 mmol) in DCM (30.0 mL). cis-2,6-Dimethylpiperidine (2.00 mL, 14.9 mmol) was added and the reaction stirred for 3 hours, then quenched by dropwise addition of HCl (1M aqueous, 30 mL). The mixture was extracted into DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The product was used in the next reaction without purification. cis-2,6-Dimethylpiperidine-carbamoylchloride (1.79 g, 10.2 mmol) was dissolved in DCM (90.0 mL) and DIPEA (2.42 mL, 13.9 mmol) was added followed by (5-fluoro-pyridin-2-yl)-hydrazine (WO 2010 022076, which is incorporated herein by reference in its entirety, 1.18 g, 9.30 mmol) and the reaction heated to 45° C. overnight. The reaction was cooled and quenched into water. The mixture was extracted into DCM (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC using 0-6% [2M NH3 in MeOH] in DCM to give the title compound (1.38 g, 56%). 1H NMR (300 MHz, CDCl3): 1.29 (6H, d, J 7.1 Hz), 1.48-1.90 (6H m), 4.26 (2H, qn, J 6.9 Hz), 6.39 (1H, d, J 2.3 Hz), 6.50 (1H, d, J 2.3 Hz), 6.74 (1H, dd, J 9.0, 3.6 Hz), 7.27 (1H, ddd, J 8.9, 8.0, 2.9 Hz), 8.03 (1H, d, J 2.9 Hz).

reactant | Pyridine | 29.7 mmol, 2.40 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 14.9 mmol, 4.42 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | cis-2,6-Dimethylpiperidine | 14.9 mmol, 2.00 mL | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | cis-2,6-Dimethylpiperidine carbamoylchloride | 10.2 mmol, 1.79 g | C[C@@H]1N[C@@H](CCC1)C.C(N)(=O)Cl
reactant | DIPEA | 13.9 mmol, 2.42 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (5-fluoro-pyridin-2-yl)-hydrazine | FC=1C=CC(=NC1)NN | C5H6FN3
solvent | DCM | 30.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 90.0 mL | C(Cl)Cl | CH2Cl2
product | cis-2,6-Dimethyl-piperidine-1-carboxylic acid N-(5-fluoro-pyridin-2-yl)-hydrazide | 1.38 g, 56% | FC=1C=CC(=NC1)N(N)C(=O)N1[C@H](CCC[C@H]1C)C | C13H19FN4O
